US04782050
1. 1-methoxyethylbenzimidazole
To a solution of 4.05 g of 1-hydroxyethylbenzimidazole in 25 ml of dimethylformamide was added 1.2 g of 50% sodium hydride in oil, and the mixture stirred for 30 minutes. Methyl iodide (3.55 g) was added and the reaction mixture stirred at room temperature overnight. Water (200 ml) was added and the product extracted with ethyl acetate. The extracts were combined, dried and concentrated to an oil which was chromatographed on 130 g of silica gel using 5% methanol in chloroform as the eluent to give 2.36 g of brown oil.

reactant | 1-hydroxyethylbenzimidazole | 4.05 g | OC(C)C=1NC2=C(N1)C=CC=C2 | C9H10N2O
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | Methyl iodide | 3.55 g | CI | CH3I
reactant | Water | 200 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-methoxyethylbenzimidazole | 2.36 g | COC(C)C=1NC2=C(N1)C=CC=C2 | C10H12N2O
